US08541596B2
N,N-Bis(4-tert-butylbenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 4-tert-butylbenzylbromide (500 mg; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.250 g (58.7%); MS m/z: 426.3 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 1.24 (s, 18H); 4.62 (s, 4H); 6.69 (br s, 1H); 6.74 (dd, 1H, 4J=2.1 Hz, 3J=8.9 Hz); 7.17-7.22 (m, 4H); 7.31-7.33 (m, 5H); 7.94 (s, 1H); 11.89 (br s, 1H); HPLC (METHOD [A]): rt 20.49 min (86.5%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-tert-butylbenzylbromide | 2.2 mmol, 500 mg, 2.2 eq. | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(4-tert-butylbenzyl)-1H-benzo[d]imidazol-5-amine | C(C)(C)(C)C1=CC=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC=C(C=C2)C(C)(C)C)C=C1 | C29H35N3
